US07750003B2
4-[4-[(3,5-Difluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline
A stream of nitrogen was passed through 2-chloro-4-[(3,5-difluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine (0.727 g, 1.8 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.513 g, 2.34 mmol) and 2M aqueous sodium carbonate (3.24 mL, 6.48 mmol) in DMF (3.75 mL), DME (5 mL), ethanol (5 mL) and water (12.5 mL) for 15 minutes. The reaction mixture was treated with dichlorobis(triphenylphosphine)palladium(II) (0.063 g, 0.09 mmol) and the mixture was stirred at 80° C. for 16 hours. The mixture was partitioned between ethyl acetate and water. The organic solution was dried (MgSO4) and concentrated under reduced pressure. The residue was chromatographed on silica, eluting with 25%-60% ethyl acetate in isohexane, to give the desired product as a yellow solid (0.735 g).

reactant | 2-chloro-4-[(3,5-difluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine | 1.8 mmol, 0.727 g | ClC1=NC(=CC(=N1)CS(=O)(=O)C1=CC(=CC(=C1)F)F)N1[C@H](COCC1)C | C16H16ClF2N3O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 2.34 mmol, 0.513 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium carbonate | 6.48 mmol, 2M, 3.24 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 3.75 mL | CN(C)C=O | C3H7NO
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 12.5 mL | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.09 mmol, 0.063 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[4-[(3,5-Difluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 0.735 g | FC=1C=C(C=C(C1)F)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C22H22F2N4O3S
